US05250526
N-(12-nitroxy-1-dodecanyl)-6-(4-methyl-1-piperazinyl)nicotinamide
2.00 g of N-(12-hydroxy-1-dodecanyl)-6-(4-methyl-1-piperazinyl)nicotinamide were suspended in 40 ml of acetonitrile and to the suspension was added dropwise under ice-cooling a mixed solution of 0.8 ml of fuming nitric acid and 1.9 ml of acetic anhydride and stirred for 6 hrs. This reaction mixture was poured into an aqueous sodium hydrogencarbonate solution, extracted with methylene chloride, washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to give 1.54 g (69%) of the title compound. m.p. 74°-76° C.

reactant | N-(12-hydroxy-1-dodecanyl)-6-(4-methyl-1-piperazinyl)nicotinamide | 2.00 g | OCCCCCCCCCCCCNC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C23H40N4O2
reactant | nitric acid | 0.8 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 1.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(12-nitroxy-1-dodecanyl)-6-(4-methyl-1-piperazinyl)nicotinamide | 1.54 g, 69% | O([N+](=O)[O-])CCCCCCCCCCCCNC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C23H39N5O4
